US04873236
11-[[[2-[2-[(Diethylamino)methyl]-piperidin-l-yl]-1,1-dimethyl-ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 2-[2-[(diethylamino)methyl]-piperidin-l-yl]-1,1-dimethyl-ethanamine in a yield of 62% of theory. Colourless crystals, m.p. 160°-162° C. (acetonitrile and ethyl acetate).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 2-[2-[(diethylamino)methyl]-piperidin-l-yl]-1,1-dimethyl-ethanamine | C(C)N(CC)CC1N(CCCC1)CC(N)(C)C | C14H31N3
reactant | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 11-[[[2-[2-[(Diethylamino)methyl]-piperidin-l-yl]-1,1-dimethyl-ethyl]amino]carbonyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 62% | C(C)N(CC)CC1N(CCCC1)CC(C)(C)NC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C27H38N6O2
